US07375099B2
2-Benzyl-N-(3,5-difluoro-benzyl)-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
The title compound, MS: m/e=539.2 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and N-(3,5-difluoro-benzyl)-2-benzyl-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | N-(3,5-difluoro-benzyl)-2-benzyl-malonamic acid | FC=1C=C(CNC(C(C(=O)O)CC2=CC=CC=C2)=O)C=C(C1)F | C17H15F2NO3
product | 2-Benzyl-N-(3,5-difluoro-benzyl)-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | C(C1=CC=CC=C1)C(C(=O)NCC1=CC(=CC(=C1)F)F)C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C32H27F2N3O3
